US05306816
To a solution of allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (100 mg) in ethanol (1.0 ml) was added a 30% aqueous solution of hydrogen peroxide (0.5 ml) and the mixture was allowed to stand at the ambient temperature for 18 hours. The solution was diluted with methylene dichloride and washed with water, 5% aqueous sodium thiosulfate solution and brine successively. The organic layer was dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (50.0 mg).

reactant | allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 100 mg | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C | C14H19NO4S
reactant | hydrogen peroxide | 0.5 ml | OO | H2O2
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 50.0 mg | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S(=O)C)C | C14H19NO5S
